US08835648B2
N-(2-Amino-5-chloro-phenyl)-5-bromo-2-fluoro-benzamide
Method 7—Step a A mixture of 5-Bromo-2-fluoro-benzoic acid (3.00 g, 13.70 mmol), 4-chloro-benzene-1,2-diamine (2.42 g, 16.99 mmol), HATU (5.47 g, 14.38 mmol) and TEA (1.91 mL, 13.83 mmol) in dichloromethane (70 mL) and DMF (16 mL) was stirred at room temperature overnight, then water was added (80 mL) and left standing at room temperature overnight. The organic layer was divided and solvent removed under reduced pressure and the crude oil obtained was crystallized from the mixture of solvents dichloromethane:cyclohexane/3:1 (30 mL) to afford 2.19 g of the title compound (52%).

reactant | 5-Bromo-2-fluoro-benzoic acid | 13.70 mmol, 3.00 g | BrC=1C=CC(=C(C(=O)O)C1)F | C7H4BrFO2
reactant | 4-chloro-benzene-1,2-diamine | 16.99 mmol, 2.42 g | ClC=1C=C(C(=CC1)N)N | C6H7ClN2
reactant | HATU | 14.38 mmol, 5.47 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | N-(2-Amino-5-chloro-phenyl)-5-bromo-2-fluoro-benzamide | 2.19 g, 52% | NC1=C(C=C(C=C1)Cl)NC(C1=C(C=CC(=C1)Br)F)=O | C13H9BrClFN2O
